US04824835
N-Methyl-N'-(4,4-dimethyl-1,2,3,4-tetrahydro-1,3-dioxo-7-isoquinolinyl)-urea
3 g. (14.7 mMole) 7-amino-4,4-dimethylisoquinoline-1,3-dione were dissolved in 100 ml. methylene chloride, mixed with 5 ml. methyl isocyanate, while cooling, and then further stirred for 2 hours at 25° C. Subsequently, the reaction mixture was evaporated, cooled, filtered off with suction and recrystallised from methanol. Yield: 3.7 g. (96.4% of theory); m.p. 257°-258° C.

reactant | 7-amino-4,4-dimethylisoquinoline-1,3-dione | 14.7 mMole | NC1=CC=C2C(C(NC(C2=C1)=O)=O)(C)C | C11H12N2O2
reactant | methyl isocyanate | CN=C=O | C2H3NO
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N-Methyl-N'-(4,4-dimethyl-1,2,3,4-tetrahydro-1,3-dioxo-7-isoquinolinyl)-urea | CNC(=O)NC1=CC=C2C(C(NC(C2=C1)=O)=O)(C)C | C13H15N3O3
